US05691364
To methylene chloride (50 mL) cooled in an ice bath was added pentafluoropyridine (2.0 g, 11.8 mmol) and dimethylamine (2.97 mL of a 40% solution in water, 24 mmol). After stirring for 30 minutes the solution was washed with water, and dried over basic alumina. The solvent was removed in vacuo to give 4-dimethylamino-2,3,5,6-tetra-fluoropyridine; NMR (CDCl3) 3.13 (m,6) ppm.

reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
reactant | pentafluoropyridine | 11.8 mmol, 2.0 g | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | dimethylamine | CNC | C2H7N
solvent | water | O | H2O
product | 4-dimethylamino-2,3,5,6-tetra-fluoropyridine | CN(C1=C(C(=NC(=C1F)F)F)F)C | C7H6F4N2
